US05776699
Ethyl 4-[2-(5,6-dihydro-5,5-dimethyl-7-oxo-2-indenyl)ethynyl]benzoate (Compound EE)
A solution of 280.0 mg (1.520 mmol) 6-ethynyl-2,3-dihydro-3,3-dimethyl-1H-inden-1-one (Compound DD) and 419.6 mg (1.520 mmol) ethyl 4-iodobenzoate in 5 ml Et3N was sparged with argon for 40 minutes. To this solution was added 271.0 mg (1.033 mmol) of triphenylphosphine, 53.5 mg (0.281 mmol) of copper(I) iodide, and 53.5 mg (0.076 mmol) of bis(triphenylphosphine)palladium(II) chloride. The resulting mixture was heated to reflux for 2.5 hours, cooled to room temperature, and diluted with Et2O. After filtration through a pad of Celite, the filtrate was washed with H2O, 1M HCl, H2O, and saturated aqueous NaCl, then dried over MgSO4, and concentrated under reduced pressure. The title compound was isolated as a pale-yellow solid by column chromatography (15% EtOAc-hexanes). 1H NMR (300 MHz, d6-acetone): δ 8.05 (2H, d, J=8.6 Hz), 7.87 (1H, dd, J=1.4, 8.1 Hz), 7.75 (2H, m), 7.70 (2H, d, J=8.5 Hz), 4.36 (2H, q, J=7.1 Hz), 2.60 (2H, s), 1.45 (6H, s), 1.37 (3H, t, J=7.1 Hz).

reactant | 6-ethynyl-2,3-dihydro-3,3-dimethyl-1H-inden-1-one | 1.520 mmol, 280.0 mg | C(#C)C1=CC=C2C(CC(C2=C1)=O)(C)C | C13H12O
reactant | ethyl 4-iodobenzoate | 1.520 mmol, 419.6 mg | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | triphenylphosphine | 1.033 mmol, 271.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et2O | CCOCC | C4H10O
solvent | Et3N | 5 ml | CCN(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.281 mmol, 53.5 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.076 mmol, 53.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl 4-[2-(5,6-dihydro-5,5-dimethyl-7-oxo-2-indenyl)ethynyl]benzoate | CC1(C=C2C=C(C=C2C(C1)=O)C#CC1=CC=C(C(=O)OCC)C=C1)C | C22H20O3
